US07008940B1
2,3-Dihydro-6,7-dimethyl-1H-indole-5-ol
To a suspension of 2,5-dimethoxy-3,4-dimethylbenzeneethaneamine hydrochloride (12.3 g, 0.05 mol) in water (50 mL) was added dropwise a solution of diammonium cerium (IV) nitrate (60.3 g, 0.11 mol) in acetonitrile (100 mL) and water (100 mL) under ice-cooling over 30 minutes, and the mixture was stirred at room temperature for 1 hour. The reaction solution was added dropwise to a suspension of a sodium bicarbonate (65.6 g, 0.78 mol) in water (250 mL)-ethyl acetate (250 mL), and the mixture was stirred at room temperature for 10 minutes. This mixture was filtered, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate two times. The combined organic layers were washed with water, mixed with a 80% sodium hydrosulfite (21.8 g, 0.10 mol) solution in water (200 mL), shaken, and the aqueous layer was separated. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethanol-diisopropyl ether to obtain 5.79 g of the title compound.

reactant | 2,5-dimethoxy-3,4-dimethylbenzeneethaneamine hydrochloride | 0.05 mol, 12.3 g | Cl.COC1=C(C=C(C(=C1C)C)OC)CCN
reactant | diammonium cerium (IV) nitrate | 0.11 mol, 60.3 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | sodium bicarbonate | 0.78 mol, 65.6 g | C([O-])(O)=O.[Na+]
reactant | sodium hydrosulfite | 0.10 mol, 21.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 50 mL | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | water | 250 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2,3-Dihydro-6,7-dimethyl-1H-indole-5-ol | 5.79 g, Yield 71% | CC1=C(C=C2CCNC2=C1C)O | C10H13NO
